*$ model description: "awb1n5139"
*b Device model created by analog_uprev for 1n5139 on Tue Feb  6 16:11:54 IST 2001
.subckt awb1n5139 AN CAT
+ params:
+ IC=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=10E-15
+ RS=0.5
+ N=1
+ TT=1E-9
+ CJO=14.42E-12
+ VJ=1
+ M=0.464
+ EG=1.11
+ XTI=3.0
+ KF=0.0
+ AF=1.0
+ FC=0.5
+ BV=70
+ IBV=10E-6
D1n5139_0 AN CAT model22 {area} 
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awb1n5139
*$ end model description: "awb1n5139"
*
*
*$ model description: "awb1n5139a"
*b Device model created by analog_uprev for 1n5139a on Tue Feb  6 16:11:54 IST 2001
.subckt awb1n5139a AN CAT
+ params:
+ IC=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=10E-15
+ RS=0.5
+ N=1
+ TT=1E-9
+ CJO=14.42E-12
+ VJ=1
+ M=0.464
+ EG=1.11
+ XTI=3.0
+ KF=0.0
+ AF=1.0
+ FC=0.5
+ BV=70
+ IBV=10E-6
D1n5139a_0 AN CAT model22 {area} 
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awb1n5139a
*$ end model description: "awb1n5139a"
*
*
*$ model description: "awb1n5140"
*b Device model created by analog_uprev for 1n5140 on Tue Feb  6 16:11:54 IST 2001
.subckt awb1n5140 AN CAT
+ params:
+ IC=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=10E-15
+ RS=0.5
+ N=1
+ TT=1E-9
+ CJO=21.10E-12
+ VJ=1
+ M=0.464
+ EG=1.11
+ XTI=3.0
+ KF=0.0
+ AF=1.0
+ FC=0.5
+ BV=70
+ IBV=10E-6
D1n5140_0 AN CAT model22 {area} 
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awb1n5140
*$ end model description: "awb1n5140"
*
*
*$ model description: "awb1n5140a"
*b Device model created by analog_uprev for 1n5140a on Tue Feb  6 16:11:54 IST 2001
.subckt awb1n5140a AN CAT
+ params:
+ IC=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=10E-15
+ RS=0.5
+ N=1
+ TT=1E-9
+ CJO=21.10E-12
+ VJ=1
+ M=0.464
+ EG=1.11
+ XTI=3.0
+ KF=0.0
+ AF=1.0
+ FC=0.5
+ BV=70
+ IBV=10E-6
D1n5140a_0 AN CAT model22 {area} 
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awb1n5140a
*$ end model description: "awb1n5140a"
*
*
*$ model description: "awb1n5141"
*b Device model created by analog_uprev for 1n5141 on Tue Feb  6 16:11:54 IST 2001
.subckt awb1n5141 AN CAT
+ params:
+ IC=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=10E-15
+ RS=0.5
+ N=1
+ TT=1E-9
+ CJO=25.32E-12
+ VJ=1
+ M=0.464
+ EG=1.11
+ XTI=3.0
+ KF=0.0
+ AF=1.0
+ FC=0.5
+ BV=70
+ IBV=10E-6
D1n5141_0 AN CAT model22 {area} 
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awb1n5141
*$ end model description: "awb1n5141"
*
*
*$ model description: "awb1n5141a"
*b Device model created by analog_uprev for 1n5141a on Tue Feb  6 16:11:54 IST 2001
.subckt awb1n5141a AN CAT
+ params:
+ IC=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=10E-15
+ RS=0.5
+ N=1
+ TT=1E-9
+ CJO=25.32E-12
+ VJ=1
+ M=0.464
+ EG=1.11
+ XTI=3.0
+ KF=0.0
+ AF=1.0
+ FC=0.5
+ BV=70
+ IBV=10E-6
D1n5141a_0 AN CAT model22 {area} 
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awb1n5141a
*$ end model description: "awb1n5141a"
*
*
*$ model description: "awb1n5142"
*b Device model created by analog_uprev for 1n5142 on Tue Feb  6 16:11:54 IST 2001
.subckt awb1n5142 AN CAT
+ params:
+ IC=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=10E-15
+ RS=0.5
+ N=1
+ TT=1E-9
+ CJO=31.65E-12
+ VJ=1
+ M=0.464
+ EG=1.11
+ XTI=3.0
+ KF=0.0
+ AF=1.0
+ FC=0.5
+ BV=70
+ IBV=10E-6
D1n5142_0 AN CAT model22 {area} 
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awb1n5142
*$ end model description: "awb1n5142"
*
*
*$ model description: "awb1n5142a"
*b Device model created by analog_uprev for 1n5142a on Tue Feb  6 16:11:54 IST 2001
.subckt awb1n5142a AN CAT
+ params:
+ IC=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=10E-15
+ RS=0.5
+ N=1
+ TT=1E-9
+ CJO=31.65E-12
+ VJ=1
+ M=0.464
+ EG=1.11
+ XTI=3.0
+ KF=0.0
+ AF=1.0
+ FC=0.5
+ BV=70
+ IBV=10E-6
D1n5142a_0 AN CAT model22 {area} 
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awb1n5142a
*$ end model description: "awb1n5142a"
*
*
*$ model description: "awb1n5143"
*b Device model created by analog_uprev for 1n5143 on Tue Feb  6 16:11:54 IST 2001
.subckt awb1n5143 AN CAT
+ params:
+ IC=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=10E-15
+ RS=0.5
+ N=1
+ TT=1E-9
+ CJO=37.98E-12
+ VJ=1
+ M=0.464
+ EG=1.11
+ XTI=3.0
+ KF=0.0
+ AF=1.0
+ FC=0.5
+ BV=70
+ IBV=10E-6
D1n5143_0 AN CAT model22 {area} 
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awb1n5143
*$ end model description: "awb1n5143"
*
*
*$ model description: "awb1n5143a"
*b Device model created by analog_uprev for 1n5143a on Tue Feb  6 16:11:54 IST 2001
.subckt awb1n5143a AN CAT
+ params:
+ IC=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=10E-15
+ RS=0.5
+ N=1
+ TT=1E-9
+ CJO=37.98E-12
+ VJ=1
+ M=0.464
+ EG=1.11
+ XTI=3.0
+ KF=0.0
+ AF=1.0
+ FC=0.5
+ BV=70
+ IBV=10E-6
D1n5143a_0 AN CAT model22 {area} 
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awb1n5143a
*$ end model description: "awb1n5143a"
*
*
*$ model description: "awb1n5144"
*b Device model created by analog_uprev for 1n5144 on Tue Feb  6 16:11:54 IST 2001
.subckt awb1n5144 AN CAT
+ params:
+ IC=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=10E-15
+ RS=0.5
+ N=1
+ TT=1E-9
+ CJO=48E-12
+ VJ=1
+ M=0.5075
+ EG=1.11
+ XTI=3.0
+ KF=0.0
+ AF=1.0
+ FC=0.5
+ BV=70
+ IBV=10E-6
D1n5144_0 AN CAT model22 {area} 
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awb1n5144
*$ end model description: "awb1n5144"
*
*
*$ model description: "awb1n5144a"
*b Device model created by analog_uprev for 1n5144a on Tue Feb  6 16:11:54 IST 2001
.subckt awb1n5144a AN CAT
+ params:
+ IC=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=10E-15
+ RS=0.5
+ N=1
+ TT=1E-9
+ CJO=48E-12
+ VJ=1
+ M=0.5075
+ EG=1.11
+ XTI=3.0
+ KF=0.0
+ AF=1.0
+ FC=0.5
+ BV=70
+ IBV=10E-6
D1n5144a_0 AN CAT model22 {area} 
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awb1n5144a
*$ end model description: "awb1n5144a"
*
*
*$ model description: "awb1n5145"
*b Device model created by analog_uprev for 1n5145 on Tue Feb  6 16:11:54 IST 2001
.subckt awb1n5145 AN CAT
+ params:
+ IC=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=10E-15
+ RS=0.5
+ N=1
+ TT=1E-9
+ CJO=61.11E-12
+ VJ=1
+ M=0.5075
+ EG=1.11
+ XTI=3.0
+ KF=0.0
+ AF=1.0
+ FC=0.5
+ BV=70
+ IBV=10E-6
D1n5145_0 AN CAT model22 {area} 
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awb1n5145
*$ end model description: "awb1n5145"
*
*
*$ model description: "awb1n5145a"
*b Device model created by analog_uprev for 1n5145a on Tue Feb  6 16:11:54 IST 2001
.subckt awb1n5145a AN CAT
+ params:
+ IC=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=10E-15
+ RS=0.5
+ N=1
+ TT=1E-9
+ CJO=61.11E-12
+ VJ=1
+ M=0.5075
+ EG=1.11
+ XTI=3.0
+ KF=0.0
+ AF=1.0
+ FC=0.5
+ BV=70
+ IBV=10E-6
D1n5145a_0 AN CAT model22 {area} 
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awb1n5145a
*$ end model description: "awb1n5145a"
*
*
*$ model description: "awb1n5146"
*b Device model created by analog_uprev for 1n5146 on Tue Feb  6 16:11:54 IST 2001
.subckt awb1n5146 AN CAT
+ params:
+ IC=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=10E-15
+ RS=0.5
+ N=1
+ TT=1E-9
+ CJO=86.87E-12
+ VJ=0.7
+ M=0.5083
+ EG=1.11
+ XTI=3.0
+ KF=0.0
+ AF=1.0
+ FC=0.5
+ BV=70
+ IBV=10E-6
D1n5146_0 AN CAT model22 {area} 
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awb1n5146
*$ end model description: "awb1n5146"
*
*
*$ model description: "awb1n5146a"
*b Device model created by analog_uprev for 1n5146a on Tue Feb  6 16:11:54 IST 2001
.subckt awb1n5146a AN CAT
+ params:
+ IC=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=10E-15
+ RS=0.5
+ N=1
+ TT=1E-9
+ CJO=86.87E-12
+ VJ=0.7
+ M=0.5083
+ EG=1.11
+ XTI=3.0
+ KF=0.0
+ AF=1.0
+ FC=0.5
+ BV=70
+ IBV=10E-6
D1n5146a_0 AN CAT model22 {area} 
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awb1n5146a
*$ end model description: "awb1n5146a"
*
*
*$ model description: "awb1n5147"
*b Device model created by analog_uprev for 1n5147 on Tue Feb  6 16:11:54 IST 2001
.subckt awb1n5147 AN CAT
+ params:
+ IC=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=10E-15
+ RS=0.5
+ N=1
+ TT=1E-9
+ CJO=102.67E-12
+ VJ=0.7
+ M=0.5083
+ EG=1.11
+ XTI=3.0
+ KF=0.0
+ AF=1.0
+ FC=0.5
+ BV=70
+ IBV=10E-6
D1n5147_0 AN CAT model22 {area} 
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awb1n5147
*$ end model description: "awb1n5147"
*
*
*$ model description: "awb1n5147a"
*b Device model created by analog_uprev for 1n5147a on Tue Feb  6 16:11:54 IST 2001
.subckt awb1n5147a AN CAT
+ params:
+ IC=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=10E-15
+ RS=0.5
+ N=1
+ TT=1E-9
+ CJO=102.67E-12
+ VJ=0.7
+ M=0.5083
+ EG=1.11
+ XTI=3.0
+ KF=0.0
+ AF=1.0
+ FC=0.5
+ BV=70
+ IBV=10E-6
D1n5147a_0 AN CAT model22 {area} 
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awb1n5147a
*$ end model description: "awb1n5147a"
*
*
*$ model description: "awb1n5148"
*b Device model created by analog_uprev for 1n5148 on Tue Feb  6 16:11:54 IST 2001
.subckt awb1n5148 AN CAT
+ params:
+ IC=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=10E-15
+ RS=0.5
+ N=1
+ TT=1E-9
+ CJO=125.0E-12
+ VJ=0.7
+ M=0.5083
+ EG=1.11
+ XTI=3.0
+ KF=0.0
+ AF=1.0
+ FC=0.5
+ BV=70
+ IBV=10E-6
D1n5148_0 AN CAT model22 {area} 
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awb1n5148
*$ end model description: "awb1n5148"
*
*
*$ model description: "awb1n5148a"
*b Device model created by analog_uprev for 1n5148a on Tue Feb  6 16:11:54 IST 2001
.subckt awb1n5148a AN CAT
+ params:
+ IC=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=10E-15
+ RS=0.5
+ N=1
+ TT=1E-9
+ CJO=125.0E-12
+ VJ=0.7
+ M=0.5083
+ EG=1.11
+ XTI=3.0
+ KF=0.0
+ AF=1.0
+ FC=0.5
+ BV=70
+ IBV=10E-6
D1n5148a_0 AN CAT model22 {area} 
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awb1n5148a
*$ end model description: "awb1n5148a"
*
*
*$ model description: "awbbb405b"
*b Device model created by analog_uprev for bb405b on Tue Feb  6 16:11:54 IST 2001
.subckt awbbb405b AN CAT
+ params:
+ IC=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ IS=7.45803E-16
+ RS=0.3
+ N=1
+ TT=1.0E-6
+ CJO=2.389E-11
+ VJ=1.0518084
+ M=0.6048566
+ EG=1.11
+ XTI=3
+ KF=0.0
+ AF=1.0
+ FC=0.5
+ BV=36.211
+ IBV=1.0
Dbb405b_0 AN CAT model22 {area} 
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbbb405b
*$ end model description: "awbbb405b"
*
*
*$ model description: "awbgc15013"
*b Device model created by analog_uprev for gc15013 on Tue Feb  6 16:11:54 IST 2001
.subckt awbgc15013 AN CAT
+ params:
+ IC=0
+ STATE=1
+ TEMP=0
+ STATE_FACTOR=0
+ IS=9.47633E-13
+ RS=0.1
+ N=1.29634
+ TT=1E-06
+ CJO=1.25732E-10
+ VJ=4.27867
+ M=1.43416
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=0.5
+ BV=44
+ IBV=1
Dgc15013_0 AN CAT model22  
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbgc15013
*$ end model description: "awbgc15013"
*
*
*$ model description: "awbgc15015"
*b Device model created by analog_uprev for gc15015 on Tue Feb  6 16:11:54 IST 2001
.subckt awbgc15015 AN CAT
+ params:
+ IC=0
+ STATE=1
+ TEMP=0
+ STATE_FACTOR=0
+ IS=9.47633E-13
+ RS=0.1
+ N=1.29634
+ TT=1E-06
+ CJO=1.01393E-10
+ VJ=1.5
+ M=0.94052
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=0.5
+ BV=44
+ IBV=1
Dgc15015_0 AN CAT model22  
.model model22 D
+  is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbgc15015
*$ end model description: "awbgc15015"
*
*
